US04092311
Ethyl 3-[6-(p-chlorophenyl)-3-pyridazinyl]carbazate
A mixture of 1.0 g. of 6-(p-chlorophenyl)-3-hydrazinopyridazine and 0.65 g. of diisopropylethylamine in 25 ml. of dioxane are placed in a flask and warmed slightly. To this is added 0.5 g. (0.45 ml.) of ethyl chloroformate and the reaction is stirred for one hour. The dioxane is removed on a rotating evaporator and ethanol is added to the residue resulting in a precipitate. This precipitate is recrystallized from ethanol giving a yellow solid, m.p. 176°-180° C.

reactant | 6-(p-chlorophenyl)-3-hydrazinopyridazine | ClC1=CC=C(C=C1)C1=CC=C(N=N1)NN | C10H9ClN4
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroformate | 0.45 ml | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 3-[6-(p-chlorophenyl)-3-pyridazinyl]carbazate | ClC1=CC=C(C=C1)C1=CC=C(N=N1)NNC(=O)OCC | C13H13ClN4O2
